US06693108B2
3-(5-Methyl-3-phenyl-isoxazol-4-yl)-3-oxo-propionitrile (0.391 g, 1.73 mmol) in Ethanol (3 mL) was treated with hydrazine (0.168 mL, 3.46 mmol) and heated to reflux. Evaporation in vacuum gave 5-(5-Methyl-3-phenyl-isoxazol-4-yl)-2H-pyrazol-3-ylamine used without purification. To the resulting amine (0.039 g, 0.16 mmol) in dioxane was added triethyl amine followed by benzyl chloride (0.019 mL, 0.16 mmol). The reaction was stirred at 10° C. for 1 hr and 2 hr at ambient temperature. The solution was diluted with water extracted with ethyl acetate, washed with saturated NaHCO3, Brine, dried over MgSO4 and concentrated in vacuum. HPLC purification afforded 1.4 mg of title compound.

reactant | 3-(5-Methyl-3-phenyl-isoxazol-4-yl)-3-oxo-propionitrile | 1.73 mmol, 0.391 g | CC1=C(C(=NO1)C1=CC=CC=C1)C(CC#N)=O | C13H10N2O2
reactant | hydrazine | 3.46 mmol, 0.168 mL | NN | H4N2
solvent | Ethanol | 3 mL | C(C)O | C2H6O
product | 5-(5-Methyl-3-phenyl-isoxazol-4-yl)-2H-pyrazol-3-ylamine | CC1=C(C(=NO1)C1=CC=CC=C1)C=1C=C(NN1)N | C13H12N4O
